US08357693B2
To tert-butyl 5-(2-(3-((1-methyl-1H-imidazol-2-yl)methoxy)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the crude product was purified by prep HPLC (method 10-35—90 mins) to afford N-(1H-indazol-5-yl)-2-(3-((1-methyl-1H-imidazol-2-yl)methoxy)phenyl)quinazolin-4-amine. (5.4 mg, 0.012 mmol).

reactant | tert-butyl 5-(2-(3-((1-methyl-1H-imidazol-2-yl)methoxy)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate | CN1C(=NC=C1)COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C31H29N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(1H-indazol-5-yl)-2-(3-((1-methyl-1H-imidazol-2-yl)methoxy)phenyl)quinazolin-4-amine | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C1=CC(=CC=C1)OCC=1N(C=CN1)C | C26H21N7O
